US08791132B2
To a solution of 7,10-dichloro-1,2,3,4,5,6-hexahydro-3-methylazepino[4,5-b]indole (200 mg, 0.746 mmol) in DMF (2 mL), sodium hydride (90 mg, 2.25 mmol) was added. After stirring at 60° C. for 30 min., 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate (543 mg, 1.86 mmol) was added to the reaction mixture and the reaction mixture was stirred at the same temperature for 40 min. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was quenched with water and extracted with EtOAc. The organic layer was washed with water, dried over anhydrous sodium sulfate and concentrated to obtain the residue that was purified by reverse phase HPLC to obtain 7,10-dichloro-1,2,3,4,5,6-hexahydro-3-methyl-6-(2-(6-methylpyridin-3-yl)ethyl)azepino [4,5-b]indole. 1H NMR TFA:—CD3OD: 8.4 (s, 1H), 8.1 (d, 1H), 7.75 (d, 1H), 7.0 (q, 2H), 4.8 (m, 1H), 4.0 (m, 1H), 3.8 (m, 2H), 3.4 (m, 3H), 3.3 (m, 2H),3.2 (t, 3H),3.0 (s, 3H), 2.7 (s, 3H).

reactant | 7,10-dichloro-1,2,3,4,5,6-hexahydro-3-methylazepino[4,5-b]indole | 0.746 mmol, 200 mg | ClC1=CC=C(C=2C3=C(NC12)CCN(CC3)C)Cl | C13H14Cl2N2
reactant | sodium hydride | 2.25 mmol, 90 mg | [H-].[Na+]
reactant | 2-(6-methylpyridin-3-yl)ethyl 4-methylbenzenesulfonate | 1.86 mmol, 543 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC=1C=NC(=CC1)C | C15H17NO3S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 7,10-dichloro-1,2,3,4,5,6-hexahydro-3-methyl-6-(2-(6-methylpyridin-3-yl)ethyl)azepino [4,5-b]indole | ClC1=CC=C(C=2C3=C(N(C12)CCC=1C=NC(=CC1)C)CCN(CC3)C)Cl | C21H23Cl2N3
